US06943183B2
2. N-[2-((S)-2-Imidazol-1-yl-1-phenyl-ethoxy)-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-ylmethyl]-benzenesulfonamide
5-Aminomethyl-6-((S)-2-imidazol-1-yl-1-phenyl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one bis-hydrochloride (74 mg, 0.171 mmol) was dissolved in pyridine (1 mL) and catalytic DMAP (2 mg) was added followed by benzenesulfonyl chloride (26 μL, 0.205 mmol, 1.2 equiv). The reaction was stirred overnight at RT. The mixture was concentrated and the residue was dissolved in CH2Cl2. The organics were washed with H2O and brine, dried over MgSO4 and concentrated to give a tan foam. Purification by chromatography (5% MeOH/EtOAc with 1% NH4OH) afforded the title compound as a white foam (57 mg, 0.114 mmol, 67%). The structure was confirmed by NMR and mass spectrometry. MS m/z 502 (M++H).

reactant | 5-Aminomethyl-6-((S)-2-imidazol-1-yl-1-phenyl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one bis-hydrochloride | 0.171 mmol, 74 mg | Cl.Cl.NCC1=C2CCCC(C2=CC=C1O[C@H](CN1C=NC=C1)C1=CC=CC=C1)=O
reactant | benzenesulfonyl chloride | 0.205 mmol, 26 μL, 1.2 equiv | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-[2-((S)-2-Imidazol-1-yl-1-phenyl-ethoxy)-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-ylmethyl]-benzenesulfonamide | 0.114 mmol, 57 mg, 67% | N1(C=NC=C1)C[C@@H](OC1=C(C=2CCCC(C2C=C1)=O)CNS(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C28H27N3O4S
